US04619938
To a solution of 605 mg of 5,8,11,14,17-eicosapentaenic acid in 6 ml of dry chloroform was added 0.25 ml of oxalyl chloride under argon at room temperature. The mixture was reacted for 2 hours. From the reaction mixture were removed the chloroform and the remaining oxalyl chloride by distillation under reduced pressure to give 5,8,11,14,17-eicosapentaenoyl chloride, which was then dissolved in 6 ml of dry chloroform.

reactant | 5,8,11,14,17-eicosapentaenic acid | 605 mg | C(CCCC=CCC=CCC=CCC=CCC=CCC)(=O)O | C20H30O2
reactant | oxalyl chloride | 0.25 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,8,11,14,17-eicosapentaenoyl chloride | C(CCCC=CCC=CCC=CCC=CCC=CCC)(=O)Cl | C20H29ClO
